US08791123B2
Ethyl 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.540 g, 1.52 mmol) was dissolved in MeOH (20 mL) and treated with 1N NaOH (13 mL). After stirring for 5 days, citric acid (solid) was added to acidify the mixture to pH 4-5. Saturated aqueous NaCl (10 mL) was added and the reaction mixture extracted with DCM and EtOAc. The combined organic layers were combined to afford 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.49 g, 99% yield). MS (apci) m/z=328.0 (M+H).

reactant | Ethyl 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 1.52 mmol, 0.540 g | FC=1C=C(C=NC1)C1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C18H18FN5O2
reactant | NaOH | 1N, 13 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | MeOH | 20 mL | CO | CH4O
product | 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.49 g, 99% yield | FC=1C=C(C=NC1)C1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
